2116-06-02 07:52:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 MULTI LUMEN - START [**2116-6-1**] 02:32 PM
 DIALYSIS CATHETER - START [**2116-6-1**] 03:01 PM
   [**6-1**]:
   - Mentation improved on BiPAP
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2116-6-1**] 08:34 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-1**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-2**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.6
C (96
   HR: 80 (72 - 100) bpm
   BP: 122/61(75) {85/26(49) - 127/98(105)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,279 mL
                                                                    157 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,219 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                     15 mL
   Urine:
                                                                     10 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen:  Alert, responding to questions, difficult to understand
   HEENT: anicteric sclera, MM dry, PERRL
   Neck: large, supple, no LAD, JVP difficult to assess
   Heart: Irregularly irregular, no m/r/g
   Lung: Coarse BS anteriorly, poor inspiratory effort, expiratory
   wheezing bilaterally
   Abd: obese, soft NT/nD +BS no rebound or guarding
   Ext: s/p R foot amp with VAC in place, no pitting edema, warm
   Skin: diffuse ecchymosis in upper ext, HD line with slight erythema, no
   drainage or tenderness
   Neuro: oriented to name place and month ([**Hospital1 **] Day)
   Labs / Radiology
   173 K/uL
   9.7 g/dL
   228 mg/dL
   5.6 mg/dL
   21 mEq/L
   4.9 mEq/L
   33 mg/dL
   103 mEq/L
   139 mEq/L
   32.6 %
   12.0 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
   WBC
   12.0
   Hct
   32.6
   Plt
   173
   Cr
   5.6
   TropT
   0.92
   Glucose
   228
   Other labs: PT / PTT / INR:14.7/38.0/1.3, CK / CKMB /
   Troponin-T:132/17/0.92, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALKALOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
   A/P: 66 yo M with obesity hypoventilation, ? COPD, afib, ESRD on HD,
   PVD with recent TMA ulcer, who presents with confusion, shortness of
   breath, fever and hypotension.
   .
   .
   Septic Shock/Hypotension: Presented with fever, leukocytosis and
   hypotension requiring pressors consistent with septic shock.  Lactate
   normalized after IVF.  Possible sources includes pneumonia given
   initial hypoxia, wound infection/bacteremia, line infection, flu.  No
   obvious GI source.  Must also consider CNS source.  no PE, or obvious
   pericardial effusion.  Must also consider adrenal insufficiency given
   he is on low dose prednisone.  Though Echo normal [**5-13**], ? component of
   cardiac decompensation.  Pressor requirement decreasing with fluids
   - Broad antibiotic coverage with vanco, zosyn for now
   - Volume resusitate cautiously given ESRD
   - Wean Levophed to maintain MAP >60, CVP 10-12
   - Trend lactate, now normalized
   - Blood, urine cx pending
   - Send urine legionella, stool cx if diarrhea
   - CXR pending this am
   - CT torso without obvious source of infection
   - Echo
   - Given solumedrol so cannot [**Last Name (un) 45**] stim.  Will hold for now as pressor
   requirement decreasing.  IF worsens or becomes refractory with give
   stress dose steroids
   .
   Hypercarbic Respiratory Failure: Likely a component of obesity
   hypoventilation with ? underlying COPD.  [**Month (only) 60**] also be made worse by
   fluid overload +/- infection given hypotension and fever, as well as
   atelectasis.  No new medications to cause sedation currently though was
   previously discharged on morphine.  Increased C02 likely cause of
   altered mental status given patient improves on BiPAP
   - Broad spectrum coverage for infectious source
   - cont low dose prednisone and standing nebulizers
   - Oliguric so hold diuretics
   - BiPAP as tolerated
   - Serial ABGs
   - Repeat CXR in AM
   - Hold opiates
   .
   Altered Mental Status: Improved on BiPAP.  Picture consistent with
   delirium from hypercarbia vs. for sepsis.  No obvious focal symptoms
   currently to suggest stroke.  Must consider all infectious sources
   currently, though no meningismus.  Uremia may also be contributing, as
   well as hypercarbia and acidosis.  Lower suspicion for seizure, head CT
   neg for bleed.  Wife also adamantly against invasive procedures
   - Treat possible infection as per above
   - Cont BiPAP with hopes of correcting hypercarbia
   - Correct acidosis by correcting hypercarbia, uremia with dialysis
   - Monitor lytes, ABGs
   - Haldol prn for agitation, hold benzos
   - Hold on MRI for now unless does not improve with correction of above
   - Hold LP given other more likely reasons for altered mental status and
   refusal of invasive procedures
   .
   Afib: Stable currently.  Not anticoagulated.  Hold metoprolol given
   hypotension.  Dig level 2
   - hold digoxin and metoprolol for now
   .
   ESRD on HD: Failed graft.  Received HD TThSat.  Underwent uncomplicated
   dialysis on saturday.  K currently stable correct for hemolysis.
   - Renal consulted
   - Cont renal medications including prednisone for failed graft
   - Dose medications appropriately
   - Monitor electrolytes closely
   .
   PVD s/p TMA debridement: s/p surgery on [**5-11**].  Has known peripheral
   vascular disease.  Tissue culture without growth on culture.  Was seen
   on [**5-22**] by Dr. [**Last Name (STitle) 7328**] with good granulation tissue
   - Cont VAC dressing
   - Non-urgent vascular evaluation of wound and VAC dressing changes
   - Cont [**Last Name (LF) **], [**First Name3 (LF) 369**]
   - Pain control cautiously with low dose morphine -> hold for now
   .
   FEN: NPO for now, monitor electrolytes, continue vitamins
   .
   Access: Femoral line
   .
   Ppx: Heparin SQ, bowel regimen, PPI
   .
   Code: DNR/DNI, no "invasive" procedures
   .
   Comm: Wife
   .
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   20 Gauge - [**2116-6-1**] 02:34 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2116-06-02 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2116-6-1**] 02:32 PM
 DIALYSIS CATHETER - START [**2116-6-1**] 03:01 PM
   History obtained from MD
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2116-6-1**] 08:34 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-1**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-2**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.6
C (96
   HR: 80 (72 - 100) bpm
   BP: 122/61(75) {85/26(49) - 127/98(105)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,279 mL
                                                                    157 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,219 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                     15 mL
   Urine:
                                                                     10 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: none since
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Trace, s/p right foot amp
   Skin:  TMA site clear on right, femoral line on left
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed.   A + O x 3
   Labs / Radiology
   9.7 g/dL
   173 K/uL
   228 mg/dL
   5.6 mg/dL
   21 mEq/L
   4.9 mEq/L
   33 mg/dL
   103 mEq/L
   139 mEq/L
   32.6 %
   12.0 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
   WBC
   12.0
   Hct
   32.6
   Plt
   173
   Cr
   5.6
   TropT
   0.92
   Glucose
   228
   Other labs: PT / PTT / INR:14.7/38.0/1.3, CK / CKMB /
   Troponin-T:132/17/0.92, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:7.7 mg/dL
   CXR [**6-2**]:  HD cath in place, low lung vols with increasing right sided
   pleural effusion
   Blood Clx:  [**6-1**] x 2 neg
   Assessment and Plan
   66 yo with  with fevers, hypotensive, dyspnea and altered mental status
   with acute on chronic resp failure (OHV).  Concern for sepsis/septic
   shock with potential infection sources including HD line, R foot wound,
   lungHis MS is most likely explained by combination of infection,
   hypotension and more likely significant  hypercarbia --this seems to be
   improving with BiPAP. Unclear if he was getting frequent narcotics as
   sedating med effects likely further contributing
   >Sepsis: multiple sources for infection: HD line, recent TMA
   debridement, aspiration.  No obvious source of non infectious fevers
   (PE etc).  HD line seems most reasonable source but hesitant to remove
   in the absence of positive clx.
   - Vanco by level, Pip-Tazo for broad spectrum coverage for empiric 14
   day course
   - Obtain a clx
   - Cont NE requirement wean as tolerated
   - Judicious use of fluids.
   >Altered MS: multifactorial including infection (with increased
   metabolic production CO2) and OHV now much improved. Can - -
   -obtain VBG to follow his CO2. Would empirically use BiPAP for altered
   MS a
   >OHV: no documented sleep study but is hypercarbic
   - out pt sleep study
   - avoid narcotics
   >Renal failure: s/p failed cadaveric transplant.  HD T, Th, Sat
   (interrupted run on sat)
   - HD today (tolerating well on low dose NE)
   - cont 5 mg prednisone for chronic ejection
   >Afib:  Currently  in Afib s/p failed cardioversion (not on anti
   coagulation due to fall risk)
   - restart digoxin  (hold metop for now) on M, W, F dosing given high
   level on admit
   - check dig level
   >Wound care: s/p TMA
   - cont ASA and plavix
   Additional issues per ICU resident note
   ICU Care
   Nutrition: adavcen renal diet as tolerated
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines: Femoral CVC to come out tomorrow
   Multi Lumen - [**2116-6-1**] 02:32 PM
   20 Gauge - [**2116-6-1**] 02:34 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI switch to H2 (given interaction)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2116-06-03 07:49:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   Delirium
   24 Hour Events:
 BLOOD CULTURED - At [**2116-6-2**] 09:24 AM
   FROM HD LINE
 TRANSTHORACIC ECHO - At [**2116-6-2**] 10:30 AM.
   - restarted digoxin t/th/sat
   - underwent HD with UF of 1.8L
   - BP's dipping to 70's overnight, bolused with NS 500cc x2
   - admission blood cultures with 1/4 GPC in clusters
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2116-6-1**] 08:34 PM
   Vancomycin - [**2116-6-2**] 10:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-2**] 09:45 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2116-6-2**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-2**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complaining of left heel pain, continues to feel confused
   Flowsheet Data as of  [**2116-6-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 88 (71 - 111) bpm
   BP: 93/32(46) {80/25(40) - 142/69(100)} mmHg
   RR: 23 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,940 mL
                                                                    281 mL
   PO:
                                                                    100 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,840 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: none
   Physical Examination
   Gen:  Alert, responding to questions, asking the same question again
   and again (
did I come from [**Hospital3 213**],
Am I at [**Hospital3 **]
   HEENT: anicteric sclera, MM dry, PERRL
   Neck: large, supple, no LAD, JVP difficult to assess
   Heart: Irregularly irregular, no m/r/g
   Lung: Coarse BS anteriorly, poor inspiratory effort, expiratory
   wheezing bilaterally
   Abd: obese, soft NT/nD +BS no rebound or guarding
   Ext: s/p R partial foot amp with VAC in place, no pitting edema, warm
   Skin: diffuse ecchymosis in upper ext, HD line with slight erythema, no
   drainage or tenderness
   Neuro: oriented to name place and month ([**Hospital1 **] Day)
   Labs / Radiology
   139 K/uL
   8.7 g/dL
   108 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.0 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   29.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
   WBC
   12.0
   7.1
   Hct
   32.6
   29.4
   Plt
   173
   139
   Cr
   5.6
   3.1
   TropT
   0.92
   Glucose
   228
   108
   Other labs: PT / PTT / INR:14.7/38.0/1.3, CK / CKMB /
   Troponin-T:132/17/0.92, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Imaging: [**6-1**] CTA chest/ab/pelvis:
   IMPRESSION:
   1. No pulmonary embolism.
   2. Unchanged cardiomegaly. Trace physiologic pericardial effusion.
   3. Small right pleural effusion, and moderate dependent bibasilar
   atelectasis.
   4. Unchanged liver cysts.
   5. Unchanged appearance of abnormally enhancing right lower quadrant
   renal
   transplant.
   .
   [**6-2**] ECHO
   The left atrium is elongated. Left ventricular wall thickness, cavity
   size, and global systolic function are normal (LVEF>55%). The aortic
   valve leaflets are mildly thickened (?#). There is no aortic valve
   stenosis. Trace aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. No mitral regurgitation is seen. There is mild
   pulmonary artery systolic hypertension. There is an anterior space
   which most likely represents a fat pad.
   IMPRESSION: Suboptimal technical quality. Global left ventricular
   function is probably normal, but a focal wall motion abnormality cannot
   be fully excluded. The right ventricle is not well seen. No pathologic
   valvular abnormality seen. Pulmonary artery systolic pressure is mildly
   elevated.
   .
   [**6-2**] Portable CXR
   IMPRESSION: Pulmonary congestive pattern on bases may have increased
   slightly but there is otherwise no gross interval change since [**6-1**].
   No new
   infiltrates and no pneumothorax.
   Microbiology: 5/25 [**1-12**] blood cx w/ gpc in clusters
   [**6-2**] blood cx pending
   Assessment and Plan
   66 yo M with obesity hypoventilation, ? COPD, afib, ESRD on HD, PVD
   with recent TMA ulcer, who presents with confusion, shortness of
   breath, fever and hypotension.
   .
   Septic Shock/Hypotension:
   Increased pressor requirement overnight and this AM after HD yesterday
   Presentation with fever and leukocytosis c/w sepsis
 source remains
   broad including line infection, wound infection. No radiographic
   evidence for pna. Adrenal insufficiency possible given chronic
   steroids, though less likely.  Does have GPCs in admission blood cx,
   bottles
   - Concern for infected HD line, will d/w renal whether we should change
   line
   - Continue vancomycin for GPCs, will d/c zosyn, day 1 [**6-1**]
   - Follow up blood and urine cultures, cultured off HD line [**6-2**]
   - Sputum culture if making sputum, legionella antigen
   - Flu swab
   - Wean levophed as tolerated
   .
   Hypercarbic Respiratory Failure:
   ABG on presentation consistent with acute on chronic respiratory
   acidosis. Improved on BiPAP.
   - If MS declines will check ABG and correlate with VBG
   - Resume BiPAP if increasing somnolence
   - Outpatient sleep study
   - Limit sedating meds
   .
   Altered Mental Status:
    Improved on BiPAP.  Picture consistent with delirium from hypercarbia
   vs. for sepsis.  No obvious focal symptoms currently to suggest
   stroke.  Must consider all infectious sources currently, though no
   meningismus.  Uremia may also be contributing, as well as hypercarbia
   and acidosis.  Lower suspicion for seizure, head CT neg for bleed.
   Wife also adamantly against invasive procedures
   - Treat possible infection as per above
   - Cont BiPAP prn
   - Correct acidosis by correcting hypercarbia, uremia with dialysis
   - Monitor lytes, ABGs
   - Haldol prn for agitation, hold benzos
   - Defer LP for now
   .
   Afib: Stable currently.  Not anticoagulated.  Hold metoprolol given
   hypotension.  Dig level 2
   - hold metoprolol
   - resumed digoxin 3 times a week
   .
   ESRD on HD: Failed graft.  Received HD TThSat.  Became hypotensive
   after HD yesterday.
   - Renal consulted
   - Cont renal medications including prednisone for failed graft
   - Dose medications appropriately
   - Monitor electrolytes closely
   .
   PVD s/p TMA debridement: s/p surgery on [**5-11**].  Has known peripheral
   vascular disease.  Tissue culture without growth on culture.  Was seen
   on [**5-22**] by Dr. [**Last Name (STitle) 7328**] with good granulation tissue
   - Cont VAC dressing
   - Non-urgent vascular evaluation of wound and VAC dressing changes
   - Cont [**Last Name (LF) **], [**First Name3 (LF) 369**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2116-06-03 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2116-6-2**] 09:24 AM
   FROM HD LINE
 TRANSTHORACIC ECHO - At [**2116-6-2**] 10:30 AM: no vegs, poor quality
   > hypotensive overnight received 1.5 L in fluids
>[**6-1**] blood clx:     Anaerobic Bottle Gram Stain (Final [**2116-6-2**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin - [**2116-6-1**] 08:34 PM
   Vancomycin - [**2116-6-2**] 10:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-2**] 09:45 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2116-6-2**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-2**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-3**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 88 (71 - 111) bpm
   BP: 93/32(46) {80/25(40) - 142/69(100)} mmHg
   RR: 23 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,940 mL
                                                                    282 mL
   PO:
                                                                    100 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,840 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: right foot MTA, left femoral CVC
   Skin:  Warm, ecchymosis diffusely
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.7 g/dL
   139 K/uL
   108 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.0 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   29.4 %
   7.1 K/uL
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
   WBC
   12.0
   7.1
   Hct
   32.6
   29.4
   Plt
   173
   139
   Cr
   5.6
   3.1
   TropT
   0.92
   Glucose
   228
   108
   Other labs: PT / PTT / INR:14.7/38.0/1.3, CK / CKMB /
   Troponin-T:132/17/0.92, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   66 yo with  with fevers, hypotensive, dyspnea and altered mental status
   with acute on chronic resp failure (OHV).  Now with pos blood clx which
   raises question of whether HD line is the source.
   >Sepsis: multiple sources for infection: HD line, recent TMA
   debridement, aspiration.  Now with pos clx  (GPC in clusters) from
   blood. Will need to dialogue with renal re: change of HD line.  Would
   remove femoral CVC today.  Hypotension yesterday complicated by HD
   run.
   - Vanco by level for empiric 14 day course  for GPC. Would stop
   Pip-tazo today.
   - f/u clx
   - Cont NE requirement wean as tolerated
   - Judicious use of fluids.
   >Altered MS: multifactorial including infection (with increased
   metabolic production CO2) and OHV now much improved.
   -if altered MS would check ABG and  Would empirically use BiPAP
   - obtain ABG with VBG is altered MS  to correlate CO2
   >OHV: no documented sleep study but is hypercarbic
   - out pt sleep study
   - avoid narcotics
   >Renal failure: s/p failed cadaveric transplant.  HD T, Th, Sat
   - HD today (tolerating well on low dose NE)
   - cont 5 mg prednisone for chronic ejection
   >Afib:  Currently  in Afib s/p failed cardioversion (not on anti
   coagulation due to fall risk)
   - restart digoxin  (hold metop for now) on M, W, F dosing given high
   level on admit
   - check dig level
   >Wound care: s/p TMA
   - cont [**Year (4 digits) 369**] and [**Year (4 digits) 1495**]
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   PO diet
   Glycemic Control:  SSi
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2116-06-04 07:46:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - hypercarbic but only intermittently tolerating bipap
   - intermittently w/ better mental status but not back to baseline per
   his wife
   - not able to wean NE
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2116-6-2**] 10:40 AM
   Piperacillin - [**2116-6-3**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-3**] 08:14 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-3**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-4**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 87 (77 - 100) bpm
   BP: 93/52(62) {62/42(52) - 115/80(95)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    935 mL
                                                                    365 mL
   PO:
                                                                    150 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                     12 mL
   Urine:
                                                                     15 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: 7.26/58/86/21/-1
   Physical Examination
   Gen:  Alert, responding to questions, asking the same question again
   and again (
did I come from [**Hospital3 213**],
Am I at [**Hospital3 **]
   HEENT: anicteric sclera, MM dry, PERRL
   Neck: large, supple, no LAD, JVP difficult to assess
   Heart: Irregularly irregular, no m/r/g
   Lung: Coarse BS anteriorly, poor inspiratory effort, expiratory
   wheezing bilaterally
   Abd: obese, soft NT/nD +BS no rebound or guarding
   Ext: s/p R partial foot amp with VAC in place, no pitting edema, warm
   Skin: diffuse ecchymosis in upper ext, HD line with slight erythema, no
   drainage or tenderness
   Neuro: oriented to name place and month ([**Hospital1 **] Day)
   Labs / Radiology
   126 K/uL
   8.5 g/dL
   116 mg/dL
   4.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   25 mg/dL
   105 mEq/L
   139 mEq/L
   28.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
   WBC
   12.0
   7.1
   5.7
   Hct
   32.6
   29.4
   28.7
   Plt
   173
   139
   126
   Cr
   5.6
   3.1
   4.4
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9176**]
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:132/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro:
   Blood cx [**6-1**]: Coag neg. staph, 1 of 2 sets
   Blood cx [**6-2**]: NGTD
   Urine cx [**6-1**]: Negative
   CXR [**6-4**]: Pending
   Assessment and Plan
   66 yo M with obesity hypoventilation, ? COPD, afib, ESRD on HD, PVD
   with recent TMA ulcer, who presents with confusion, shortness of
   breath, fever and hypotension.
   .
   Septic Shock/Hypotension:
   Increased pressor requirement overnight and this AM after HD yesterday
   Presentation with fever and leukocytosis c/w sepsis
 source remains
   broad including line infection, wound infection. No radiographic
   evidence for pna. Adrenal insufficiency possible given chronic
   steroids, though less likely.  Has coag neg. staph in admission blood
   cx, 1 of 2 sets, surveillance blood cx. negative thus far.
   - Concern for infected HD line, renal feels likely contaminant, no
   current plans to change line
   - Continue vancomycin dosed with HD, day 1= [**6-1**]
   - Follow up surveillance blood cultures, cultured off HD line [**6-2**]
   - urine cx negative
   - Sputum culture if making sputum
   - Wean levophed as tolerated
   .
   Hypercarbic Respiratory Failure:
   ABG on presentation consistent with acute on chronic respiratory
   acidosis. Improved on BiPAP.
   - If MS declines will check ABG and correlate with VBG
   - Resume BiPAP if increasing somnolence
   - Outpatient sleep study
   - Limit sedating meds
   .
   Altered Mental Status:
    Improved on BiPAP.  Picture consistent with delirium from hypercarbia
   vs. for sepsis.  No obvious focal symptoms currently to suggest
   stroke.  Must consider all infectious sources currently, though no
   meningismus.  Uremia may also be contributing, as well as hypercarbia
   and acidosis.  Lower suspicion for seizure, head CT neg for bleed.
   Wife also adamantly against invasive procedures
   - Treat possible infection as per above
   - Cont BiPAP prn
   - Correct acidosis by correcting hypercarbia, uremia with dialysis
   - Monitor lytes, ABGs
   - Haldol prn for agitation, hold benzos
   - Defer LP for now
   .
   Afib: Stable currently.  Not anticoagulated.  Hold metoprolol given
   hypotension.  Dig level 2
   - hold metoprolol
   - resumed digoxin 3 times a week
   .
   ESRD on HD: Failed graft.  Received HD TThSat.  Became hypotensive
   after HD yesterday.
   - Renal consulted
   - Cont renal medications including prednisone for failed graft
   - Dose medications appropriately
   - Monitor electrolytes closely
   .
   PVD s/p TMA debridement: s/p surgery on [**5-11**].  Has known peripheral
   vascular disease.  Tissue culture without growth on culture.  Was seen
   on [**5-22**] by Dr. [**Last Name (STitle) 7328**] with good granulation tissue
   - Cont VAC dressing
   - Non-urgent vascular evaluation of wound and VAC dressing changes
   - Cont [**Last Name (LF) **], [**First Name3 (LF) 369**]
 HYPOGLYCEMIA
 HYPERGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:ICU

2116-06-04 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Intermittently on BiPap for increased somnolence
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2116-6-2**] 10:40 AM
   Piperacillin - [**2116-6-3**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-3**] 08:14 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-3**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-4**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 87 (77 - 100) bpm
   BP: 93/52(62) {62/42(52) - 115/80(95)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    935 mL
                                                                    366 mL
   PO:
                                                                    150 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                     12 mL
   Urine:
                                                                     15 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: 7.26/58/86/21/-1
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   126 K/uL
   116 mg/dL
   4.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   25 mg/dL
   105 mEq/L
   139 mEq/L
   28.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
   WBC
   12.0
   7.1
   5.7
   Hct
   32.6
   29.4
   28.7
   Plt
   173
   139
   126
   Cr
   5.6
   3.1
   4.4
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9176**]
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:132/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Admission blood clx [**6-1**]: coag neg staph
   HD line [**6-2**]: NGTD
   CXR [**2116-6-4**]:  HD cath in place,  venous congestion, no obv infiltrate.
   Assessment and Plan
   66 yo with  with fevers, hypotensive, dyspnea and altered mental status
   with acute on chronic resp failure (OHV).  Now with pos blood clx which
   raises question of whether HD line is the source although coag neg
   staph would seem to argue for contaminant
    >Sepsis/Hypotension: multiple sources for infection: HD line, recent
   TMA debridement, aspiration.  Now with pos clx  (coag neg staph) from
   blood. Will need to dialogue with renal re: change of HD line.  Would
   remove femoral CVC today.  Hypotension yesterday complicated by HD
   run.
   - Vanco by level for empiric 14 day course  for GPC. Would stop
   Pip-tazo today [**6-4**]
   - f/u clx
   - check random cortisol
   - Cont NE requirement wean as tolerated, will try to turn off post HD
   run.
    >Altered MS: multifactorial including infection (with increased
   metabolic production CO2) and OHV improves with BiPAP, seems to
   correspond to him having increased CO2.
   - Would empirically use BiPAP
   - avoid sedating meds
   >OHV: no documented sleep study but is hypercarbic
   - out pt sleep study
   - avoid narcotics
   - BiPAP at night
   >Renal failure: s/p failed cadaveric transplant.  HD T, Th, Sat
   - HD today (tolerating well on low dose NE)
   - cont 5 mg prednisone for chronic ejection
   >Afib:  Currently  in Afib s/p failed cardioversion (not on anti
   coagulation due to fall risk)
   - restart digoxin  (hold metop for now) on T, Th, Sat dosing given high
   level on admit
   - check dig level post HD today.
   >Wound care: s/p TMA
   - cont [**Month/Year (2) 369**] and [**Month/Year (2) 1495**]
    Remaining Issues per ICU resident note.
   ICU Care
   Nutrition:
   Passed SLP eval
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2116-06-05 06:52:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 STOOL CULTURE - At [**2116-6-4**] 10:08 AM
 BLOOD CULTURED - At [**2116-6-4**] 01:30 PM
   HD line
 BLOOD CULTURED - At [**2116-6-4**] 08:00 PM
   Tlc
   - HD line cx from [**6-2**] growing GPCs which is concerning for line
   infection
   - HD line changed over wire by IR
   - random cortisol 8.5 -> started on stress-dose steroids
   - uneventful HD run
   - given haldol and zyprexa for severe agitation
   - off levophed since 10pm
   History obtained from Patient
   Allergies:
   History obtained from PatientNeupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-3**] 08:14 PM
   Piperacillin - [**2116-6-4**] 07:30 AM
   Vancomycin - [**2116-6-4**] 01:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-4**] 08:14 AM
   Haloperidol (Haldol) - [**2116-6-5**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-5**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 97 (86 - 121) bpm
   BP: 122/59(74) {78/46(53) - 122/91(118)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,268 mL
                                                                     67 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    608 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen:  sleey but arousable
   HEENT: anicteric sclera, MM dry, PERRL
   Neck: large, supple, no LAD, JVP difficult to assess
   Heart: Irregularly irregular, no m/r/g
   Lung: Coarse BS anteriorly, poor inspiratory effort, expiratory
   wheezing bilaterally
   Abd: obese, soft NT/ND +BS, no rebound or guarding
   Ext: s/p R partial foot amp with VAC in place, no pitting edema, warm
   Skin: diffuse ecchymosis in upper ext, HD line with slight erythema, no
   drainage or tenderness
   Neuro: oriented to name place and month
   Labs / Radiology
   108 K/uL
   8.2 g/dL
   126 mg/dL
   2.5 mg/dL
   31 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   141 mEq/L
   26.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
                             [**2116-6-4**]  09:50 AM
                             [**2116-6-5**]  04:11 AM
   WBC
   12.0
   7.1
   5.7
   3.3
   Hct
   32.6
   29.4
   28.7
   26.6
   Plt
   173
   139
   126
   108
   Cr
   5.6
   3.1
   4.4
   4.7
   2.5
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9185**]09
   126
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:132/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Micro:
   Blood cx [**6-4**]: NGTD
   Catheter tip cx: pending
   C diff neg. [**6-4**]
   Blood cx [**6-2**]:
 sets + for GPC
   Studies:
   CXR
   Assessment and Plan
   66 yo M with obesity hypoventilation, ? COPD, afib, ESRD on HD, PVD
   with recent TMA ulcer, who presents with confusion, shortness of
   breath, fever and hypotension.
   .
   Septic Shock/Hypotension:  Etiology felt to be sepsis from line
   infection with 2 sets of positive blood cultures including one set from
   HD line.  Urine negative and CXR without clear infiltrate. On vanco for
   coag neg. staph on admission blood cx and now with GPCs in surveillance
   cultures.  Able to wean off pressors last night and BP remains stable.
   Started on stress dose steroids given inappropriately low cortisol.  HD
   line changed over wire by IR.
   - Continue vancomycin dosed with HD x 14 days, day 1= [**6-1**]
   - Follow up ID and [**Last Name (un) **]. of surveillance blood cultures
   - urine cx negative
   - Sputum culture if making sputum
   - Cont. stress dose steroids
 weaning as tolerated as steroids likely
   contributing to confusion
   .
   Hypercarbic Respiratory Failure:
   ABG on presentation consistent with acute on chronic respiratory
   acidosis. Improved on BiPAP.
   - Resume BiPAP if increasing somnolence, check gas
   - Needs outpatient sleep study
   - Limit sedating meds
   .
   Altered Mental Status:
    MS [**First Name (Titles) 622**] [**Last Name (Titles) 1379**] with agitation and confusion.  ? steroid induced
   vs. delirium in setting of bacteremia and chronic illness, ICU.
   Picture consistent with delirium from hypercarbia vs. for sepsis.  No
   obvious focal symptoms currently to suggest stroke.  Must consider all
   infectious sources currently, though no meningismus.  Uremia may also
   be contributing, as well as hypercarbia and acidosis.  Lower suspicion
   for seizure, head CT neg for bleed.  Wife also adamantly against
   invasive procedures
   - Treat possible infection as per above
   - Cont BiPAP prn
   - Correct acidosis by correcting hypercarbia, uremia with dialysis
   - Monitor lytes, ABGs
   - Haldol prn for agitation, hold benzos
   - Defer LP for now
   .
   Pancytopenia
   Ddx broad including infection, meds eg zantac, pip/tazo less likely
   heparin
   - dc zantac today, change to omeprazole
   - add on smear
   - follow cbc daily
   .
   Afib: Stable currently.  Not anticoagulated.  Hold metoprolol given
   hypotension.  Dig level 2
   - hold metoprolol
   - resumed digoxin 3 times a week
   - check dig level
   .
   ESRD on HD: Failed graft.  Received HD TThSat.  Became hypotensive
   after HD yesterday.
   - Renal consulted
   - Cont renal medications including prednisone for failed graft
   - Dose medications appropriately
   - Monitor electrolytes closely
   .
   PVD s/p TMA debridement: s/p surgery on [**5-11**].  Has known peripheral
   vascular disease.  Tissue culture without growth on culture.  Was seen
   on [**5-22**] by Dr. [**Last Name (STitle) 7328**] with good granulation tissue
   - Cont VAC dressing
   - Non-urgent vascular evaluation of wound and VAC dressing changes
   - Cont [**Last Name (LF) **], [**First Name3 (LF) 369**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
 remove femoral line and place
   midline
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU, call out

2116-06-05 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2116-6-4**] 10:08 AM
 BLOOD CULTURED - At [**2116-6-4**] 01:30 PM
   HD line
 BLOOD CULTURED - At [**2116-6-4**] 08:00 PM
   Tlc
   > started on stress dose steroids
   > Off NE since [**17**] PM
   > HD line changed
   > Agitation and received haldol a total of 4 doses of 2.5 mg of haldol.
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-3**] 08:14 PM
   Piperacillin - [**2116-6-4**] 07:30 AM
   Vancomycin - [**2116-6-4**] 01:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-4**] 08:14 AM
   Haloperidol (Haldol) - [**2116-6-5**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-5**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 98 (86 - 121) bpm
   BP: 96/75(78) {78/46(53) - 122/91(118)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,268 mL
                                                                     78 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    608 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: with right TMA, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   108 K/uL
   126 mg/dL
   2.5 mg/dL
   31 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   141 mEq/L
   26.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
                             [**2116-6-4**]  09:50 AM
                             [**2116-6-5**]  04:11 AM
   WBC
   12.0
   7.1
   5.7
   3.3
   Hct
   32.6
   29.4
   28.7
   26.6
   Plt
   173
   139
   126
   108
   Cr
   5.6
   3.1
   4.4
   4.7
   2.5
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9185**]09
   126
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:132/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   c. dif [**6-4**] neg
   Assessment and Plan
   66 yo with  with fevers, hypotensive, dyspnea and altered mental status
   with acute on chronic resp failure (OHV).  Now with pos blood clx which
   raises question of whether HD line is the source although coag neg
   staph (also with pos clx from his HD line which was changed )
    >Sepsis/Hypotension: multiple sources for infection: HD line, recent
   TMA debridement, aspiration.  Now with pos clx  (coag neg staph) from
   blood.  Line changed on [**6-4**] over wire. Stress dose steroids and now
   off NE gtt.
   - Vanco by level for empiric 14 day course  for GPC with HD. Would stop
   Pip-tazo today [**6-4**]
   - f/u identity of HD line clx.
   - random cortisol 8, on stress dose steroid, would favor trialing a
   lower dose 25 mg IV q 8h of hydrocortisone with
   Rapid wean down as we clear infection.
   >Progressive neutropenia and thrombocytopenia: unclear etiology. Would
   suspect med effect: rantidine, pip-tazo and Vanco.
   - Switch to PPI. Already stopped pip-tazo ([**6-4**]).
   - check peripheral smear.
     >Altered MS: multifactorial including infection (with increased
   metabolic production CO2) and OHV improves with BiPAP and now
   complicated by high dose steroids.
   seems to correspond to him having increased CO2.
   - Would empirically use BiPAP
   - avoid sedating meds, use haldol prn (check ECG)
    >OHV: no documented sleep study but is hypercarbic
   - out pt sleep study
   - avoid narcotics
   - BiPAP at night
    >Renal failure: s/p failed cadaveric transplant.  HD T, Th, Sat
   - HD today (tolerating well on low dose NE)
   - on stress dose steroids
   >Afib:  Currently  in Afib s/p failed cardioversion (not on anti
   coagulation due to fall risk)
   - restart digoxin  (hold metop for now) on T, Th, Sat
   - follow dig levels
   >Wound care: s/p TMA
   - cont ASA and plavix
   > Access: will try to have mid line and remove femoral CVC.
    Remaining Issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-1**] 02:32 PM
   Dialysis Catheter - [**2116-6-1**] 03:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 change to PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU with likely late day call out  possible.
   Total time spent: 45 minutes

2116-06-06 07:29:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, hypotension, altered mental status
   HPI:
   66yo male with COPD, OHS,, PVD,  ESRD on HD (s/p failed renal txplant)
   admit with above symptoms, found to be hypercapneic and hypotensive,
   requiring vasopressors. Found to have a coag neg staphylococcus aureus
   and VRE bacteremia (portal of entry likely HD catheter). Pt started on
   broad spectrum Abx, vasopressors, stress-dose steroids; diaysis
   cathteer changed over wire. On [**6-5**] blood cultures again grew VRE.
   24 Hour Events:
   + Now on 3L NC
   + Now with L. knee pain
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2116-6-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2116-6-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2116-6-5**] 10:00 PM
   Haloperidol (Haldol) - [**2116-6-6**] 01:30 AM
   Morphine Sulfate - [**2116-6-6**] 04:15 AM
   Other medications:
   Plavix
   ASA 325
   Atrovent q6h
   Nephrocaps
   Digoxin 125mcg MWF
   Hydrocortisone 25mg q8hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-6**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 110 (78 - 124) bpm
   BP: 106/61(71) {91/32(52) - 192/169(93)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
                  Total In:
                                                                    194 mL
                                                                     80 mL
   PO:
                                                                     60 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,306 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Obese, NAD
   Audible expiratory wheeze
   Lungs with bilat exp wheezes and crackles
   RRR no m/r/g
   Extremities cool.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   121 K/uL
   125 mg/dL
   1.9 mg/dL
   32 mEq/L
   3.3 mEq/L
   5 mg/dL
   99 mEq/L
   143 mEq/L
   26.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
                             [**2116-6-4**]  09:50 AM
                             [**2116-6-5**]  04:11 AM
                             [**2116-6-6**]  02:45 AM
   WBC
   12.0
   7.1
   5.7
   3.3
   5.5
   Hct
   32.6
   29.4
   28.7
   26.6
   26.5
   Plt
   173
   139
   126
   108
   121
   Cr
   5.6
   3.1
   4.4
   4.7
   2.5
   1.9
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9185**]09
   126
   125
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:53/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:0.9 mg/dL
   Assessment and Plan
   66yo with COPD and ESRD on HD  admit with dyspnea, hypotension and
   altered mental status in setting of coag neg staph and VRE bacteremia.
   1. Sepsis
       - Thought secondary to infected HD- catheter; catheter removed
   [**6-5**].
       - Continue Daptomycin (Linezolid avoided b/c of patient
   pre-existing thrombocytopenia.   Will re-set days to when HD
         catheter removed, for total 14 days ([**6-5**]- [**6-19**])
       - Currently hemodynamically stable with baseline BPs
       - On stress-dose steroids; will wean quickly.
   2. Hypercapnea
       - Likely increased CO2 production in setting of infection
       - Currently on room air
       - continue baseline COPD regimen
   2. OHS
        - Will montior for nocturnal desaturation; BiPap at night.
   3. ESRD
        - HD catheter to be replaced [**6-8**]
        - No acute indications for RRT
        - Hypophosphatemia- will decrease phosphate binders
   4. Altered mental status
        - Initially thought to be toxic-metabolic in setting of
   bacteremia/sepsis and hypercapnia.
        - Now likely additional component of steroid-induced delirium
        - Has returned to baseline
   5. Adrenal insufficiency
        - Secondary to chronic steroid use. Will taper quickly to
   physiologic dose
   6. Anemia, thrombcytopenia
        - Thought multifactorial to sepsis and medications
        - Improving
   7. Afib
        - Rate controlled with metoprolol and Digoxin
        - not anticoagulated due to fall risk
   8. L. knee pain
         - Exam unremarkable
         - Will check LENI to r/o VTE
         - pain control with tylenol
   8. ICU
        - Code status= DNR/DNI
        - Access- will need replacement HD catheter on [**6-8**].  Currently
   with peripherals
        - Prophy:
            + GI= PPI
            + DVT= SQ heparin
        - Communication
        - Dispo= Call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2116-6-5**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2116-6-6**] 12:59 ------

2116-06-06 11:15:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   66yo with COPD, ESRD on HD, admit with lethargy, dyspnea.  Found to
   have coag neg staph and VRE bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2116-6-5**] 03:00 PM
   BC SENT FROM HD LINE RIGHT SC
 MIDLINE - START [**2116-6-5**] 03:00 PM
 BLOOD CULTURED - At [**2116-6-5**] 05:30 PM
   BC SENT FROM LEFT FEMORAL TLC
 DIALYSIS CATHETER - STOP [**2116-6-5**] 08:00 PM
 MULTI LUMEN - STOP [**2116-6-5**] 09:45 PM
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-3**] 08:14 PM
   Piperacillin - [**2116-6-4**] 07:30 AM
   Vancomycin - [**2116-6-4**] 01:20 PM
   Daptomycin - [**2116-6-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2116-6-6**] 01:30 AM
   Morphine Sulfate - [**2116-6-6**] 04:15 AM
   Heparin Sodium (Prophylaxis) - [**2116-6-6**] 07:31 AM
   Omeprazole (Prilosec) - [**2116-6-6**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-6**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 93 (78 - 124) bpm
   BP: 86/37(49) {86/35(49) - 134/85(165)} mmHg
   RR: 23 (16 - 39) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    194 mL
                                                                    230 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    134 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,306 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   121 K/uL
   125 mg/dL
   1.9 mg/dL
   32 mEq/L
   3.3 mEq/L
   5 mg/dL
   99 mEq/L
   143 mEq/L
   26.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2116-6-2**]  03:43 AM
                             [**2116-6-3**]  04:36 AM
                             [**2116-6-3**]  03:45 PM
                             [**2116-6-4**]  12:50 AM
                             [**2116-6-4**]  09:50 AM
                             [**2116-6-5**]  04:11 AM
                             [**2116-6-6**]  02:45 AM
   WBC
   12.0
   7.1
   5.7
   3.3
   5.5
   Hct
   32.6
   29.4
   28.7
   26.6
   26.5
   Plt
   173
   139
   126
   108
   121
   Cr
   5.6
   3.1
   4.4
   4.7
   2.5
   1.9
   TropT
   0.92
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 9185**]09
   126
   125
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:53/17/0.92, Lactic Acid:0.9 mmol/L, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:0.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2116-6-5**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: